US06046217
Step 5: 4-Aminosulfonylbenzene boronic acid
A solution of 4-t-butylaminosulfonylbenzene boronic acid (500 mg) in TFA (5 mL) was stirred at r.t. for 15 h. The mixture was diluted with ether and the solid material was filtered to provide the title compound.

reactant | 4-t-butylaminosulfonylbenzene boronic acid | 500 mg | C(C)(C)(C)NS(=O)(=O)C1=CC=C(C=C1)B(O)O | C10H16BNO4S
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | ether | CCOCC | C4H10O
product | 4-Aminosulfonylbenzene boronic acid | NS(=O)(=O)C1=CC=C(C=C1)B(O)O | C6H8BNO4S
